US07105671B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3(R)-(tetrahydro-thiopyran-3-yl)-propionic acid methyl ester (247 mg, 0.655 mmol) in methanol (4.75 mL) was treated with a 0.8M aqueous lithium hydroxide solution (7.27 mL, 5.895 mmol). The reaction mixture was stirred at 25° C. for 1.5 h and then concentrated in vacuo to remove methanol. The remaining aqueous layer was acidified to pH=2 with a 10% aqueous hydrochloric acid solution and then extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford pure 2-(3-chloro-4-methanesulfonyl-phenyl)-3(R)-(tetrahydro-thiopyran-3-yl)-propionic acid (227.0 mg, 95.5%) as a light yellow foam: [α]23589=+12.21° (c=0.79, methanol).

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3(R)-(tetrahydro-thiopyran-3-yl)-propionic acid methyl ester | 0.655 mmol, 247 mg | COC(C(C[C@@H]1CSCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO4S2
reactant | lithium hydroxide | 5.895 mmol, 0.8M, 7.27 mL | [OH-].[Li+]
solvent | methanol | 4.75 mL | CO | CH4O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3(R)-(tetrahydro-thiopyran-3-yl)-propionic acid | 227.0 mg, 95.5% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)C[C@@H]1CSCCC1 | C15H19ClO4S2
